US07384963B2
N-(3-Nitrobenzyl)-N′-phenylurea 3-Nitrobenzylamine hydrochloride (377 mg, 2.0 mmol) and triethylamine (278 μl, 2 mmol) were stirred in ethanol (5 ml) for 15 min. Phenylisocyanate (230 μl, 2.12 mmol) was added dropwise to the solution and stirring continued for 45 min at room temperature once the addition was complete. The reaction was concentrated under vacuum and the residue partitioned between ethyl acetate and water. The organic phase was washed with water, dried (sodium sulphate) and the solvent evaporated under vacuum to give N-(3-nitrobenzyl)-N′-phenylurea (520 mg). MP; 153-156° C.

reactant | N-(3-Nitrobenzyl)-N′-phenylurea 3-Nitrobenzylamine hydrochloride | 2.0 mmol, 377 mg | Cl.[N+](=O)([O-])C=1C=C(CN)C=CC1.[N+](=O)([O-])C=1C=C(CNC(=O)NC2=CC=CC=C2)C=CC1
reactant | triethylamine | 2 mmol, 278 μl | C(C)N(CC)CC | C6H15N
reactant | Phenylisocyanate | 2.12 mmol, 230 μl | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-(3-nitrobenzyl)-N′-phenylurea | 520 mg | [N+](=O)([O-])C=1C=C(CNC(=O)NC2=CC=CC=C2)C=CC1 | C14H13N3O3
